US05607954
a) 2-Methoxycarbonylpyridine-5-carbonyl chloride
14.5 g (80 mmol) of 2-methoxycarbonylpyridine-5-carboxylic acid are treated with 6.48 ml of thionyl chloride and 2 ml of anhydrous N,N-dimethylformamide in 200 ml of anhydrous toluene. The mixture is heated at 70° C. for 3 h with stirring. It is then concentrated in vacuo and the residue is dissolved in 150 ml of tetrahydrofuran.

reactant | 2-methoxycarbonylpyridine-5-carboxylic acid | 80 mmol, 14.5 g | COC(=O)C1=NC=C(C=C1)C(=O)O | C8H7NO4
reactant | thionyl chloride | 6.48 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methoxycarbonylpyridine-5-carbonyl chloride | COC(=O)C1=NC=C(C=C1)C(=O)Cl | C8H6ClNO3
